US05866568
Tetrakis(triphenylphosphine)palladium(0) (0.022 g) was added to a deoxygenated mixture of 2-chloro-N-(3-methoxy-5-methylpyrazin-2-yl)-N-[2-(trimethylsilyl) ethoxymethyl]pyridine-3-sulphonamide (0.405 g), 4-methylthiophenylboronic acid (obtained by the procedure described in Tetrahedron Lett., 1993, 34, 8237) (0.148 g), toluene (4.5 ml), ethanol (2.5 ml) and 2M sodium carbonate solution (7 ml) and the mixture was stirred and heated under reflux for 18 hours. Water was added and the mixture was extracted three times with ethyl acetate. The organic extracts were combined, washed with saturated sodium chloride solution and then dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by gradient elution with 0-35% ethyl acetate/hexane through a silica gel Mega Bond Elut column to give N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-methylthiophenyl)-N-[2-(trimethylsilyl)ethoxymethyl]pyridine-3-sulphonamide (0.415 g) as an oil; 1H NMR (CDCl3): 0.0 (s, 9 H), 0.8 (t, 2 H), 2.5 (s, 3 H), 2.55 (s, 3 H), 3.6 (t, 2 H), 3.9 (s, 3 H), 4.8 (s, 2 H), 7.3-7.5 (m, 3 H), 7.6-7.7 (m, 2 H), 7.8 (s, 1 H), 8.7 (dd, 1 H), 8.8 (dd, 1 H); mass spectrum (+ve ESP): 533 (M+H)+.

reactant | 2-chloro-N-(3-methoxy-5-methylpyrazin-2-yl)-N-[2-(trimethylsilyl) ethoxymethyl]pyridine-3-sulphonamide | 0.405 g | ClC1=NC=CC=C1S(=O)(=O)N(COCC[Si](C)(C)C)C1=NC=C(N=C1OC)C | C17H25ClN4O4SSi
reactant | 4-methylthiophenylboronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | toluene | 4.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M, 7 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.022 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-methylthiophenyl)-N-[2-(trimethylsilyl)ethoxymethyl]pyridine-3-sulphonamide | 0.415 g | COC=1C(=NC=C(N1)C)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)SC)COCC[Si](C)(C)C | C24H32N4O4S2Si
